US05929067
c) 3-Methylamino-4-(2-naphthyl)-butanoic acid ethyl ester
2 ml (17.6 mmol) of a 27.3% solution of methylamine in ethanol and 5.5 ml of acetic acid are added to 24.9 g (92.5 mmol) of 3-methylamino-4-(2-naphthyl)-but-2-enoic acid ethyl ester in 250 ml of ethanol and the mixture is cooled to 0° C. 6.4 g (87 mmol) of 85% sodium cyanoborohydride and a further 5.5 ml of acetic acid are added to the suspension. The reaction mixture is allowed to rise to room temperature, with stirring, over a period of 2 hours. A further 0.64 g (8.7 mmol) of sodium cyanoborohydride is added to the clear solution and stirring is continued at room temperature for a further 2 hours. 400 ml of 1N hydrochloric acid are then added and the reaction mixture is stirred for 1 hour and then the ethanol is evaporated off in a rotary evaporator. The aqueous phase is washed twice with ether and the ether phases are extracted with 1N hydrochloric acid. Ethyl acetate is added to the combined aqueous phases and the mixture is rendered basic with solid potassium carbonate; the organic phase is separated off and washed with brine. The title compound is obtained in the form of a slightly brown oil. IR: 1725 cm-1 ; 1H-NMR, 200 MHz, CDCl3, delta, (ppm): 7.86-7.32 (m, 7H), 4.12 (q, 2H), 3.26 (quint., 1H), 3.05-2.82 (ABxd, 2H), 2.53-2.44 (s, 3H), 1.25 (t, 3H).

reactant | methylamine | CN | CH5N
reactant | 3-methylamino-4-(2-naphthyl)-but-2-enoic acid ethyl ester | 92.5 mmol, 24.9 g | C(C)OC(C=C(CC1=CC2=CC=CC=C2C=C1)NC)=O | C17H19NO2
reactant | sodium cyanoborohydride | 87 mmol, 6.4 g | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 8.7 mmol, 0.64 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 1N, 400 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | acetic acid | 5.5 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | acetic acid | 5.5 ml | C(C)(=O)O | C2H4O2
product | 3-Methylamino-4-(2-naphthyl)-butanoic acid ethyl ester | C(C)OC(CC(CC1=CC2=CC=CC=C2C=C1)NC)=O | C17H21NO2
